US07820675B2
7-Iodo-5-nitro-1-benzofuran (1.00 g, 3.46 mmol), quinuclidin-3-ol (1.10 g, 8.65 mmol), 1,10-phenanthroline (0.25 g, 1.38 mmol), CuI (0.13 g, 0.69 mmol) and toluene (20 mL) were mixed together and heated at 140° C. overnight. The solvent was removed in vacuo and the crude product was purified by flash chromatography (eluent: hexane and chloroform:MeOH:triethylamine; 9:0.9:0.1) to give 3-[(5-nitro-1-benzofuran-7-yl)oxy]quinuclidine (3.46 mmol).

reactant | 7-Iodo-5-nitro-1-benzofuran | 3.46 mmol, 1.00 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | quinuclidin-3-ol | 8.65 mmol, 1.10 g | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 1,10-phenanthroline | 1.38 mmol, 0.25 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI | 0.69 mmol, 0.13 g | [Cu]I
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(5-nitro-1-benzofuran-7-yl)oxy]quinuclidine | 3.46 mmol | [N+](=O)([O-])C=1C=C(C2=C(C=CO2)C1)OC1CN2CCC1CC2 | C15H16N2O4
